US08193199B2
A mixture of 1-(2,8-dichloroquinolin-3-yl)ethanol (5.0 g, 21 mmol) and MnO2 (18 g, 10 eq) in toluene (200 mL) were heated to reflux for 2 h. Filtration followed with removal of solvent gave a white solid as 1-(2,8-dichloroquinolin-3-yl)-ethanone (4.5 g, 91%). A solution of this solid (5.0 g, 21 mmol) in THF (50 mL) was added to a solution of (+)-DIP-Cl (14.7 g, 2.2 eq) in THF (150 mL) at −78° C. dropwise. The reaction was slowly warmed up to rt over night. The reaction was then quenched with acetone (23 mL) and stirred at 0° C. for 1 h before addition of EtOAc. The reaction was warmed up to rt and washed with 10% Na2CO3 and water. Chiral HPLC on IA column (isopropanol in hexane, 10%) showed a ratio of 19:1 for two enantiomers. The combined crude products were concentrated under high vacuum and purified by column chromatography on silica gel (EtOAc/hexane, 1/3) to give a white solid which is recrystallized from a mixture of EtOAc (30 mL) and Hexane (210 mL). A white needle was obtained. 1H NMR (400 MHz, CDCl3) δ ppm 8.43 (s, 1H), 7.84 (d, J=8.0 Hz, 1H), 7.79 (d, J=8.0 Hz, 1H), 7.50 (t, J=8.0 Hz, 1H), 5.40 (q, J=8.0 Hz, 1H), 1.63 (d, J=8.0 Hz, 3H). Mass Spectrum (ESI) m/e=242 (M+1).

reactant | 1-(2,8-dichloroquinolin-3-yl)ethanol | 21 mmol, 5.0 g | ClC1=NC2=C(C=CC=C2C=C1C(C)O)Cl | C11H9Cl2NO
solvent | toluene | 200 mL | C1(=CC=CC=C1)C | C7H8
catalyst | MnO2 | 18 g, 10 eq | O=[Mn]=O
product | 1-(2,8-dichloroquinolin-3-yl)-ethanone | 4.5 g, 91% | ClC1=NC2=C(C=CC=C2C=C1C(C)=O)Cl | C11H7Cl2NO
